US08383827B2
To a solution of 1-(5-(3-chloro-4-cyanophenyl)pyridin-3-yl)cyclopropanecarboxylic acid (900 mg, 3.01 mmol) in toluene (50 mL) was added TEA (0.63 mL, 4.52 mmol) and diphenylphosphoryl azide (0.977 mL, 4.52 mmol), and the mixture was heated to 100° C. for 4 h. The mixture was then cooled to room temperature and concentrated in vacuo. The residue was re-dissolved in THF (100 mL) and a solution of KOtBu (2.03 g, 18.08 mmol) in THF (40 mL) was added. The mixture was stirred at 0° C. for 1 h. The mixture was then warmed to room temperature overnight. Silica gel (10 g) was added and the mixture was concentrated in vacuo. The residue was purified by silica chromatography eluting with a 0-10% MeOH-DCM gradient to give 4-(5-(1-aminocyclopropyl)pyridin-3-yl)-2-chlorobenzonitrile. m/z 270.0, 272.0 (M+H)+.

reactant | 1-(5-(3-chloro-4-cyanophenyl)pyridin-3-yl)cyclopropanecarboxylic acid | 3.01 mmol, 900 mg | ClC=1C=C(C=CC1C#N)C=1C=C(C=NC1)C1(CC1)C(=O)O | C16H11ClN2O2
reactant | diphenylphosphoryl azide | 4.52 mmol, 0.977 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | KOtBu | 18.08 mmol, 2.03 g | CC(C)(C)[O-].[K+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 4-(5-(1-aminocyclopropyl)pyridin-3-yl)-2-chlorobenzonitrile | NC1(CC1)C=1C=C(C=NC1)C1=CC(=C(C#N)C=C1)Cl | C15H12ClN3
